US06048983
Preparation of 4-Oxo-8-[4-(4-phenylbutoxy)benzoylamino]-2-(tetrazol-5-yl)-4H-1-benzopyran Hemihydrate
A mixture of 4-(4-phenylbutoxy)bromobenzene (0.50 g, 1.64 mmole), 8-amino-4-oxo-2-(tetrazol-5-yl)-4H-1-benzopyran (0.75 g, 3.28 mmole), bis-(triphenylphospine)palladium (II) chloride (0.135 g, 0.19 mmole) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.87 g, 5.74 mmole) was stirred in N-methylpyrrolidinone (10 ml) at 100-110° C. under an atmosphere of carbon monoxide at atmospheric pressure for 4.5 hours. The reaction mixture was diluted with water (15 ml) and acidified using concentrated hydrochloric acid (5 ml). The precipitate was filtered, washed with water and methanol and then stirred in concentrated hydrochloric acid (8 ml) to dissolve unreacted 8-amino-4-oxo-2-(tetrazol-5-yl)-4H-1-benzopyran. The undissolved solid was filtered, washed with concentrated hydrochloric (2×1.5 ml), water, then methanol. The damp cake was stirred with sodium acetate (0.15 g, 1.83 mmole) in methanol (10 ml) and the solution filtered. The supernatant liquor was acidified with concentrated hydrochloric acid (0.2 ml), and the product filtered, washed with methanol and dried to give the title compound (422 mg, 53%).

reactant | 4-(4-phenylbutoxy)bromobenzene | 1.64 mmole, 0.50 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)Br | C16H17BrO
reactant | 8-amino-4-oxo-2-(tetrazol-5-yl)-4H-1-benzopyran | 3.28 mmole, 0.75 g | NC1=CC=CC=2C(C=C(OC21)C2=NN=NN2)=O | C10H7N5O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.74 mmole, 0.87 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium acetate | 1.83 mmole, 0.15 g | C(C)(=O)[O-].[Na+]
solvent | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 15 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | bis-(triphenylphospine)palladium (II) chloride | 0.19 mmole, 0.135 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-Oxo-8-[4-(4-phenylbutoxy)benzoylamino]-2-(tetrazol-5-yl)-4H-1-benzopyran Hemihydrate | 422 mg, 53% | O.O=C1C=C(OC2=C1C=CC=C2NC(C2=CC=C(C=C2)OCCCCC2=CC=CC=C2)=O)C2=NN=NN2.O=C2C=C(OC1=C2C=CC=C1NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O)C1=NN=NN1 | InChI=1S/2C27H23N5O4.H2O/c2*33-23-17-24(26-29-31-32-30-26)36-25-21(23)10-6-11-22(25)28-27(34)19-12-14-20(15-13-19)35-16-5-4-9-18-7-2-1-3-8-18;/h2*1-3,6-8,10-15,17H,4-5,9,16H2,(H,28,34)(H,29,30,31,32);1H2
